US07407649B2
Intermediate 1: 5-Bromo-2-methylphenol
To a solution of 5-amino-2-methylphenol (10 g, 81.2 mmol) in hydrobromic acid (40 mL, 48% solution) and water (50 mL) at 0° C. was added a solution of sodium nitrite (5.6 g, 81.2 mmol) in water (15 mL) and the mixture stirred at this temperature for 30 minutes. To this was added copper (I) bromide (11.6 g, 81.2 mmol) in hydrobromic acid (15 mL, 48% solution) and the reaction was subsequently heated at reflux for 2 hours. Upon cooling to room temperature the resulting mixture was extracted with ethyl acetate (2×200 mL) and the combined organic extracts were washed with aqueous potassium hydroxide solution (˜1 M, 200 mL), dried (magnesium sulphate) and concentrated under reduced pressure. The crude product was purified by column chromatography [SiO2; light petroleum to 4:1 light petroleum-ethyl acetate] to give the title compound as a colourless oil, which crystallised to give fine colourless needles upon standing overnight (4 g, 26%). Rf=0.26 [4:1 light petroleum-ethyl acetate]. 1H NMR δ 2.21 (3 H, s), 4.89-4.95 (1 H, br, s), 6.96-6.97 (1 H, br, m), 6.99-7.00 (2 H, m).

reactant | 5-amino-2-methylphenol | 81.2 mmol, 10 g | NC=1C=CC(=C(C1)O)C | C7H9NO
reactant | sodium nitrite | 81.2 mmol, 5.6 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 40 mL | Br | BrH
reactant | hydrobromic acid | 15 mL | Br | BrH
solvent | water | 50 mL | O | H2O
solvent | water | 15 mL | O | H2O
catalyst | copper (I) bromide | 81.2 mmol, 11.6 g | [Cu]Br
product | 5-Bromo-2-methylphenol | BrC=1C=CC(=C(C1)O)C | C7H7BrO
